Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
"I got upset."
 
Major Surgical or Invasive Procedure:
none.

 
History of Present Illness:
___ with h/o polysubstance abuse, PTSD, depression, and multiple
previous psychiatric hospitalizations for SA who presents after
SA by intentional ingestion of ETOH, cocaine, and prescription
meds.  She states she was with her long-time boyfriend yesterday
night and they were "having a good time," when he accused her of
being responsible for the death of their recently deceased 
mutual
friend (patient will not go into details about the circumstances
of his death, just that "we never found out what happened").  
She
became very upset by this and said "f- it," and proceeded to use
ETOH, cocaine, and pills in an attempt to end her life.  She is
very vague about how much she used, but says she had several
drinks of gin, smoked some cocaine, and took risperdal and
azithromycin which she had been prescribed upon d/c from ___ 2 weeks ago.  There were only 4 tablets of azithro
prescribed as well as a 2 week supply of risperdal - 3 mg and 
0.5
mg tablets - filled on ___.  These bottles are now empty but
it is unclear how many she had used prior to yesterday evening. 
She then brought herself to ___ seeking help, and was found on
___ 3 looking for the ED and behaving erratically.

She endorses depressed mood, disrupted sleep, anergia, and
feelings of guilt and hopelessness that have been going on for
several weeks.  She recently presented to ___ for
"depression and feeling scared" and was admitted to ___ for three days during which time she was started on
risperdal (unclear if patient was taking this as prescribed). 
Per her medicine bottles it appears she was supposed to take 3.5
mg qhs.  She was also prescribed azithro for presumptive
infection though patient does not know the source, just that she
had been febrile.  She did not followup with outpatient
arrangements that were made for her as has been her pattern in
the past.  She denies SI/HI presently, sx of mania, or 
psychosis.

 
Past Medical History:
PSYCH HX:
* no current treaters she was to f/u with her PCP who was to 
  arrange for outpatient psychotherapy and psychopharm. @
  ___ but she did not f/u
* ___ ___ with depression, si, psychosis and 
  intoxication.
* hx of multiple psychiaric hospitlaizations and multiple 
suicide
  attempts

PAST MEDICAL HX:
* PCP ___ @ ___
* hx of heart murmur
* hx of anemia and thalassemia
* 6 children four with C sections 
* s/p tubal ligation

As per OMR--> Six children four cesarean sections and a tubal 
ligation.  She
stated that she had a heart murmur and anemia.

 
Social History:
___
Family History:
Mo, sisters EtOH; sister depression
and hx SA; sister w mental retardation

 
Physical Exam:
Physical Exam within normal limits.

MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: WDWN overweight AA women,
not malodorous but somewhat disheveled appearing 
     POSTURE: lying on stretcher with eyes closed for the most
part and at times with back turned to interviewer
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): none
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): uncooperative
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC,
ETC.):regular rate and rhythm, at times difficult to understand
___ volume or mumbling
     MOOD: "i dont know"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
restricted, irritable
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): linear
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):none
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): denies
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO):endorses poor sleep and anergia
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT,
PLAN):denies
     INSIGHT AND JUDGMENT:poor
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): drowsy
          ORIENTATION:to person, place, time
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.):had 
trouble
with WORLD backwards and MOYB but intact to 7-digit span
          MEMORY (SHORT- AND LONG-TERM): ___ registration and 
___
at 5 minutes, ___ with prompting (motivational component highly
suspected)
          CALCULATIONS: 3 quarters + 1 dime = "$0.95" but then
corrected herself when asked again
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): below
average
          PROVERB INTERPRETATION: spilt milk = "don't be a baby"
          SIMILARITIES/ANALOGIES: table/chair = "both are used 
to
eat dinner"

 
Pertinent Results:
___ 09:46PM   ALT(SGPT)-12 AST(SGOT)-15 ALK PHOS-39 TOT 
BILI-0.2
___ 09:46PM   CALCIUM-8.9 PHOSPHATE-4.5 MAGNESIUM-1.7
___ 07:50AM   GLUCOSE-97 UREA N-12 CREAT-0.7 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-107 TOTAL CO2-24 ANION GAP-15
___ 07:50AM   ASA-NEG ETHANOL-97* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:50AM   WBC-3.7* RBC-4.49 HGB-9.7* HCT-31.1* MCV-69* 
MCH-21.7* MCHC-31.4 RDW-15.3
___ 07:50AM   NEUTS-38.4* LYMPHS-52.6* MONOS-4.8 EOS-3.8 
BASOS-0.4
___ 07:50AM   PLT COUNT-___. Psychiatric: Patient was admitted to the unit and monitored 
on ___ protocol. She did not exhibit signs of alcohol 
withdrawal and did not require PRN Valium. She was initially 
superficial and evasive on interview, and became withdrawn when 
team attempted to discuss her feelings. She progressively opened 
up, and was able to share that she would be interested in 
individual therapy and possibly attending more AA/NA meetings. 
She met with a nurse individually to discuss AA, and is 
considering following up for AA/NA meetings that are available 
near her home. Over the course of the admission, patient was 
future oriented, denied suicidality, and was motivated to work 
on her mood. Although her suicidality is chronic she does not 
present as an acute risk to herself. She felt that the next time 
she is feeling overwhelmed she could contact family or her 
therapist. She was offered a partial hospital program but 
refused. 

Psychopharmacology: Celexa 20 mg daily was initiated. Patient 
had been on this regimen in the past with good effect. She did 
not experience side effects. The discharge summary from her 
previous admission was reviewed and she had been placed on 
Risperdal at ___ because she had reported command 
auditory hallucinations. She reports that she only heard the 
voice of an abusive ex-boyfriend who had called on the 
telephone, and she denied current auditory hallucinations. 
Risperdal was not-restarted. 

Behavior/Mileu: Patient had no acute behavioral issues while on 
the unit. She was cooperative and attended groups. 

Social: Patient reports that she plans to leave ___ her current 
boyfriend. She has concerns that he forces her to do things she 
does not want to and she has a history of abusive relationships 
in the past. She plans to stay with her brother. She is also 
planning to be picked up by her boss and return to work. She 
denied acute safety concerns.  She declined to allow the team to 
contact her family or other supports.

2. Medical: Patient had no acute ___ medical issues. She 
was prescribed Allegra PRN itch and also Eucerin cream topically 
for dry skin and seasonal allergies with good effect. 

3. Legal: ___
4. Disposition: discharged home, with close outpatient follow 
up. 
 
Medications on Admission:
-risperdal 3.5 mg qhs
-azithromycin 250 mg qd x 2 days

 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I:  Depression NOS (personality d/o vs. dyshtymia vs. 
substance-induced).  PSA.
AXIS II:  Cluster B traits
AXIS III:  thalassemia, anemia, seasonal allergies, heart murmur
AXIS IV:  financial stress, relationship stress
AXIS V:  50

 
Discharge Condition:
Stable, improved.

MSE: Appearance:Casually dressed and groomed, good eye contact.  

Speech:Fluent, normal r/r/v.
Mood: euthmyic
Affect:  Smiling, appears euthymic.  Reactive.
Thought Process:Overinclusive but overall linear
Thought Content:Denies SI.  Denies SI now. Denies HI.  Denies 
paranoia, IOR.
Abnormal Perceptions:Denies

 
Discharge Instructions:
Please go to your nearest ED with worsening mood, suicidal 
thoughts, or problems taking care of yourself. Please take your 
medications, and follow up with your treaters.

 
Followup Instructions:
___